US08563575B2
A mixture of N4-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyrimidine-4,5-diamine (55 mg) and bis(2,5-dioxopyrrolidin-1-yl) carbonate (53 mg) in DMF (5 mL) was stirred overnight at 80° C. then at 95° C. for 3 h. After this time, the reaction mixture was cooled to ambient temperature, diluted with water (50 mL) and extracted with ethyl acetate (100 ml). The organic layer was washed with water (50 ml), 5% aqueous lithium chloride (50 mL) then brine (50 ml), dried over sodium sulfate, and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, methylene chloride to 1:9 methanol/methylene chloride), solvent exchanged with acetonitrile and freeze dried from acetonitrile/water to afford 9-[4-(1,3-benzoxazol-2-ylamino)phenyl]-7,9-dihydro-8H-purin-8-one (19 mg) as off-white crystals.

reactant | N4-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyrimidine-4,5-diamine | 55 mg | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=NC=C2N | C17H14N6O
reactant | bis(2,5-dioxopyrrolidin-1-yl) carbonate | 53 mg | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 9-[4-(1,3-benzoxazol-2-ylamino)phenyl]-7,9-dihydro-8H-purin-8-one | 19 mg | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)N2C1=NC=NC=C1NC2=O | C18H12N6O2
